US08937078B2
Step E: Preparation of 1-(4-oxo-6-o-tolyl-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid.
A mixture of 1-(4-oxo-6-o-tolyl-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester (40.0 mg, 1.07 mmol), 1M aq. KOH (0.5 mL) and THF (1 mL) was stirred for 16 h. The reaction mixture was concentrated under reduced pressure to remove the THF and the aqueous residue was acidified to pH 2 with 1 M aq. HCl. The resulting precipitate was collected by filtration to provide the titled compound (30.0 mg, 81%). MS (ESI): mass calcd. for C19H14N4O3, 346.1; m/z found 347.0 [M+H]+. 1H NMR (600 MHz, DMSO-d6): 13.04 (s, 1H), 12.93 (s, 1H), 8.99 (s, 1H), 8.28 (s, 1H), 8.02 (s, 1H), 7.86 (d, J=7.5 Hz, 1H), 7.76 (d, J=7.8 Hz, 1H), 7.37-7.29 (m, 4H), 2.28 (s, 3H).

reactant | 1-(4-oxo-6-o-tolyl-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester | 1.07 mmol, 40.0 mg | C(C)OC(=O)C=1C=NN(C1)C1=NC2=CC=C(C=C2C(N1)=O)C1=C(C=CC=C1)C | C21H18N4O3
reactant | KOH | 1M, 0.5 mL | [OH-].[K+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 1-(4-oxo-6-o-tolyl-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid | 30.0 mg, 81% | O=C1NC(=NC2=CC=C(C=C12)C1=C(C=CC=C1)C)N1N=CC(=C1)C(=O)O | C19H14N4O3
